### PR TITLE
feat(Geometry/Manifold): local diffeomorphisms are immersions, diffeomorphisms are smooth embeddings (`proof_wanted`)

### PR DESCRIPTION
**Pull request by FrankieNC**
Fill the `Diffeomorph.isSmoothEmbedding` `proof_wanted` from `Wanted/Geometry/Manifold/SmoothEmbedding.lean`, via the route its TODO suggests: prove that a `C^n` local diffeomorphism (at a point) between manifolds over the same model is an immersion (at that point), with trivial complement `PUnit`, then deduce that injective local diffeomorphisms and diffeomorphisms are smooth embeddings.

Also adds `isLocalDiffeomorphAt_iff`, mirroring the existing `isLocalDiffeomorphOn_iff` and `isLocalDiffeomorph_iff`.

This addresses three TODO items in `Immersion.lean` and one in `SmoothEmbedding.lean`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/SmoothEmbedding.lean [hunk 1]
```diff
@@ -116,4 +118,22 @@ lemma contMDiff (hf : IsSmoothEmbedding I J n f) :
...
 
+section LocalDiffeomorph
+
+variable {P : Type*} [TopologicalSpace P] [ChartedSpace H P]
+  [IsManifold I n M] [IsManifold I n P]
+
+/-- An injective `C^n` local diffeomorphism between manifolds over the same model
+is a `C^n` embedding. -/
+theorem _root_.IsLocalDiffeomorph.isSmoothEmbedding {f : M → P} (hf : IsLocalDiffeomorph I I n f)
+  (hf' : Function.Injective f) :
```
Comment (pepamontero) [inline Mathlib/Geometry/Manifold/SmoothEmbedding.lean]:
```suggestion
    (hf' : Function.Injective f) :
```

You can also maybe put the thesis in the same line, to use the same style as the result below.

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 2]
```diff
@@ -901,4 +902,64 @@ lemma _root_.ContMDiff.iff_comp_isImmersion {f : M → N} {φ : N → N'} (hφ :
 
 end IsImmersion
 
+/-! ### Local diffeomorphisms are immersions -/
+
+section LocalDiffeomorph
+
+open IsManifold
```
Comment (pepamontero) [inline Mathlib/Geometry/Manifold/Immersion.lean]: This seems to only be used in ` _root_.IsLocalDiffeomorphAt.isImmersionAtOfComplement`, so maybe it could just be `open IsManifold in ...`, which is also consistent with other instances of this in the same file.

**Review by pepamontero — COMMENTED** [review]
I think this is a great PR! I came across this as I saw it was marked as to-do and wanted to see if I could do it hahaha. Really nice work!

The thing I noticed: the proof of `IsLocalDiffeomorphAt.isImmersionAtOfComplement` seems a bit long. I think one improvement could be to extract `hψ_mem` as a standalone lemma (something like "transporting a chart in the maximal atlas along a `PartialDiffeomorph` lands you in the maximal atlas of the target manifold").

I think that @grunweg was working on something related for `Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean` to add after #40720, namely some `OpenPartialHomeomorph.diffeomorph_trans_mem_maximalAtlas` (for transporting along `Diffeomorph I I M M n` instead, seems like a similar pattern), so I think this might be worth it.

I also added two super tiny comments.

**Comment by FrankieNC** [comment]
> I think this is a great PR! I came across this as I saw it was marked as to-do and wanted to see if I could do it hahaha. Really nice work!
> 
> The thing I noticed: the proof of `IsLocalDiffeomorphAt.isImmersionAtOfComplement` seems a bit long. I think one improvement could be to extract `hψ_mem` as a standalone lemma (something like "transporting a chart in the maximal atlas along a `PartialDiffeomorph` lands you in the maximal atlas of the target manifold").
> 
> I think that @grunweg was working on something related for `Mathlib/Geometry/Manifold/ContMDiff/Atlas.lean` to add after #40720, namely some `OpenPartialHomeomorph.diffeomorph_trans_mem_maximalAtlas` (for transporting along `Diffeomorph I I M M n` instead, seems like a similar pattern), so I think this might be worth it.
> 
> I also added two super tiny comments.

Thanks for the review!

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 3]
```diff
@@ -901,4 +902,57 @@ lemma _root_.ContMDiff.iff_comp_isImmersion {f : M → N} {φ : N → N'} (hφ :
...
+  apply IsImmersionAtOfComplement.mk_of_charts (.prodUnique 𝕜 E PUnit) φ ψ hxφ (hmap hxφ) hφ_mem
+    (Φ.symm.trans_mem_maximalAtlas hφ_mem) hmap
+  intro u hu
+  rw [OpenPartialHomeomorph.extend_target] at hu
+  have hyΦ : φ.symm (I.symm u) ∈ Φ.source := (hφ_source ▸ φ.map_target hu.1).2
+  simp [hψ_def, heq hyΦ, Φ.left_inv hyΦ, φ.right_inv hu.1, I.right_inv hu.2]
+
+/-- A `C^n` local diffeomorphism at `x` between manifolds over the same model
+is an immersion at `x`. -/
+theorem _root_.IsLocalDiffeomorphAt.isImmersionAt (hf : IsLocalDiffeomorphAt I I n f x) :
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Immersion.lean]: In general, it's slightly shorter if you first prove `IsImmersionAt

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 4]
```diff
@@ -901,4 +902,57 @@ lemma _root_.ContMDiff.iff_comp_isImmersion {f : M → N} {φ : N → N'} (hφ :
...
+variable {P : Type*} [TopologicalSpace P] [ChartedSpace H P]
+  [IsManifold I n M] [IsManifold I n P] {f : M → P} {x : M}
+
+open IsManifold in
+/-- A `C^n` local diffeomorphism at `x` between manifolds over the same model
+is an immersion at `x`, with the trivial complement `PUnit`. -/
+theorem _root_.IsLocalDiffeomorphAt.isImmersionAtOfComplement
+    (hf : IsLocalDiffeomorphAt I I n f x) : IsImmersionAtOfComplement PUnit I I n f x := by
+  obtain ⟨Φ, hx, heq⟩ := isLocalDiffeomorphAt_iff.mp hf
+  set φ : OpenPartialHomeomorph M H := (chartAt H x).restr Φ.source
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Immersion.lean:918]: As a general comment, you're doing a lot of by-hand manipulation: automation is your friend; you can make your life easier by using it. I'll try to give some examples below.

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 5]
```diff
@@ -901,4 +902,57 @@ lemma _root_.ContMDiff.iff_comp_isImmersion {f : M → N} {φ : N → N'} (hφ :
...
+  have hφ_source : φ.source = (chartAt H x).source ∩ Φ.source :=
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Immersion.lean:919]: This could be proven by `grind`: `by grind [Φ.open_source]` is another valid proof.

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 6]
```diff
@@ -901,4 +902,57 @@ lemma _root_.ContMDiff.iff_comp_isImmersion {f : M → N} {φ : N → N'} (hφ :
...
+    (chartAt H x).restr_source' _ Φ.open_source
+  have hφ_mem : φ ∈ maximalAtlas I n M :=
+    restr_mem_maximalAtlas _ (chart_mem_maximalAtlas x) Φ.open_source
+  set ψ : OpenPartialHomeomorph P H := Φ.symm.toOpenPartialHomeomorph.trans φ with hψ_def
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Immersion.lean:923]: I would rather inline this definition, i.e, specify it on line 928 below.

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 7]
```diff
@@ -901,4 +902,57 @@ lemma _root_.ContMDiff.iff_comp_isImmersion {f : M → N} {φ : N → N'} (hφ :
...
+  have hmap : φ.source ⊆ f ⁻¹' ψ.source := fun y hy ↦ by
+    have hyΦ : y ∈ Φ.source := (hφ_source ▸ hy).2
+    simp [hψ_def, heq hyΦ, Φ.map_source hyΦ, Φ.left_inv hyΦ, hy]
+  have hxφ : x ∈ φ.source := hφ_source ▸ ⟨mem_chart_source H x, hx⟩
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Immersion.lean:927]: You could also grind this proof: `grind [mem_chart_source, Φ.open_source]`

File: Mathlib/Geometry/Manifold/Immersion.lean [hunk 8]
```diff
@@ -901,4 +902,57 @@ lemma _root_.ContMDiff.iff_comp_isImmersion {f : M → N} {φ : N → N'} (hφ :
...
+  apply IsImmersionAtOfComplement.mk_of_charts (.prodUnique 𝕜 E PUnit) φ ψ hxφ (hmap hxφ) hφ_mem
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/Immersion.lean:928]: As a general rule, I find `mk_of_continuousAt` more convenient to use. Proving `hmap` is slightly annoying, so if you don't need to do so, that's better. (You're still using it once below, but that can also be rewritten: `(by simpa [ψ, heq hx, Φ.left_inv hx] using ⟨Φ.map_source hx, hxφ⟩)` does the same.)

**Review by grunweg — COMMENTED** [review]
Hi! Thanks for trying to help; the differential geometry library can definitely use some helping hands.

Historically, I imagined a different proof for this fact, namely proving that local diffeomorphisms have differential with a left inverse and arguing that therefore, they are immersions and submersions. Mathlib has the first part already; the second part is blocked on an application of the inverse function theorem. (See #40643 for the current progress.)
However, that proof only works well under extra conditions (which are mild in practice, but perhaps less convenient to use) --- so I'm coming around to proving this result directly also.

(Details: one needs to assume a Banach manifold, and that f maps tangent vectors to the boundary of its domain to tangent vectors to the boundary of its codomain). While (local) diffeomorphisms usually satisfy this, proving this in full generality is a bit tricky. I know an argument for C⁰ manifolds in finite dimensions, and one for C¹ manifolds, but am not sure about infinite-dimensional C⁰ Banach manifolds.)

As it so happens, I have proven a mostly more general result in #41203 (applying that to the identity, which we know to be an immersion, should yield this PR's result), so I'd rather merge that one. I'm sorry about this duplicate work! (I also wish my PR would have got reviewed faster, but reviewer capacity is limited.)

I have left some comments below, indicating how your code could be improved --- so you can still learn from them (even if this code won't be merged as-is).

I can suggest some differential geometry tasks which need help (and are not conflicting with this), if you prefer.

**Comment by grunweg** [comment]
As a general comment, the whole story around immersions and smooth embeddings has been moving quite slowly (because I get pulled away in different directions, and review capacity is scarce). Let's rather discuss and find a useful project that doesn't conflict with in-progress plans!

**Comment by FrankieNC** [comment]
> Hi! Thanks for trying to help; the differential geometry library can definitely use some helping hands.
> 
> Historically, I imagined a different proof for this fact, namely proving that local diffeomorphisms have differential with a left inverse and arguing that therefore, they are immersions and submersions. Mathlib has the first part already; the second part is blocked on an application of the inverse function theorem. (See #40643 for the current progress.) However, that proof only works well under extra conditions (which are mild in practice, but perhaps less convenient to use) --- so I'm coming around to proving this result directly also.
> 
> (Details: one needs to assume a Banach manifold, and that f maps tangent vectors to the boundary of its domain to tangent vectors to the boundary of its codomain). While (local) diffeomorphisms usually satisfy this, proving this in full generality is a bit tricky. I know an argument for C⁰ manifolds in finite dimensions, and one for C¹ manifolds, but am not sure about infinite-dimensional C⁰ Banach manifolds.)
> 
> As it so happens, I have proven a mostly more general result in #41203 (applying that to the identity, which we know to be an immersion, should yield this PR's result), so I'd rather merge that one. I'm sorry about this duplicate work! (I also wish my PR would have got reviewed faster, but reviewer capacity is limited.)
> 
> I have left some comments below, indicating how your code could be improved --- so you can still learn from them (even if this code won't be merged as-is).
> 
> I can suggest some differential geometry tasks which need help (and are not conflicting with this), if you prefer.

No worries! Thanks for the review! I was just looking for things to do in the `Wanted` folder. We can close this PR. I can try my hand at a different problem!

**Comment by FrankieNC** [comment]
Closed in favour of https://github.com/leanprover-community/mathlib4/pull/41203.
